US05294612
Sodium metal (0.21 g, 9.2 mmol) was dissolved in ethanol (25 ml) and 6-carboethoxyimidazo[1,2-a]pyridine (1.75 g, 9.2 mmol) and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1.02 g, 4.6 mmol) were added. The reaction mixture was heated to reflux for 24 hours, cooled to room temperature and stirred for 60 hours. The solvent was removed in vacuo, the residue was dissolved in water (100 ml) and the solution was neutralized by the addition of concentrated HCl. A precipitate was obtained which was collected by filtration through a glass frit. The solid was recrystallized from ethanol and washed with ether to afford 0.98 g (62%) of 1-cyclopentyl-3-ethyl-6-(6-imidazo[1,2-a]pyridinyl)-pyrazolo[3,4-d]pyrimidin-4-one as white crystals, m.p. >300° C. when dried for 18 hours at 120° C. in high vacuum.

reactant | Sodium | 9.2 mmol, 0.21 g | [Na] | Na
reactant | 6-carboethoxyimidazo[1,2-a]pyridine | 9.2 mmol, 1.75 g | C(=O)(OCC)C=1C=CC=2N(C1)C=CN2 | C10H10N2O2
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 4.6 mmol, 1.02 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-cyclopentyl-3-ethyl-6-(6-imidazo[1,2-a]pyridinyl)-pyrazolo[3,4-d]pyrimidin-4-one | 0.98 g, 62% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C=2C=CC=1N(C2)C=CN1)CC | C19H20N6O
